US04960791
Salannin (25 mg., 0.041 mmol) in 0.5 ml of ethanol was stirred with 13 mg of 5% palladium on alumina at 25° C. under hydrogen (5 atm) for 15 min. The reaction mixture was then filtered and evaporated in vacuo. The residue was chromatographed by silica gel preparative HPLC (solvent = isopropanol-n-hexane, 2:23) to afford 2',3'-dihydrosalannin (19 mg): IR max (cm-1) 1735 (s), 1500 (w), 870 (m); 1H-NMR (CDC13) δ 0.95 (t, J =7.4 Hz, 1 H, 4' -Me), 0.96 (t, J =7.4 Hz, 2 H, 4' -Me), 1.23 (d, J =6.5 Hz, 2 H, 5' -Me), 1.30 (d, J =6.9 Hz, 1 H, 5' -Me), 1.45-1.70 (m, 2 H, H-3'ab), 1.75-1.95 (m, 1 H, H-2'), 2.07 (s, 3 H, 3-Ac), 3.60 (apparent br s, 2 H, H-28a,b), 4.87 (dd, J =2.9, 2.9 Hz, 1 H, H-3); EI-MS, m/z 598 (M+, 100%), 583 (M-CH3, 7), 567 (M-OCH3, 2), 513 (M-COCH(CH3) Ch2Ch3, 4), 504 (10), 496 (M-HOCOCH(CH3)CH2CH3, 5), 421 (17), 397 (5), 283 (30), 259 (23), 235 (17), 230 (9), 202 (9), 185 (9) 173 (14), 147 (13 ), 119 (8), 85 (CH3CH2CH(CH3)CO+, 14), 57 CH3CH2CH(CH3)+, 46).

reactant | Salannin | 0.041 mmol, 25 mg | C/C=C(/C)\C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]1([C@H]([C@]4([C@@H]3O[C@H]5C4=C([C@@H](C5)C=6C=COC6)C)C)CC(=O)OC)C)C)OC(=O)C | C34H44O9
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
catalyst | palladium on alumina | 13 mg | [Pd] | Pd
product | 2',3'-dihydrosalannin | 19 mg | CCC(C)C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]1([C@H]([C@]4([C@@H]3O[C@H]5C4=C([C@@H](C5)C=6C=COC6)C)C)CC(=O)OC)C)C)OC(=O)C | C34H46O9
